US07067517B2
Methyl-phenyl-carbamic acid 1H-indol-4-yl ester
The title product was prepared from 4-hydroxyindole and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (48%, off-white solid). HPLC-MS: m/z=267.1 (M+1); Rt: 3.57 min.

reactant | 4-hydroxyindole | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 1H-indol-4-yl ester | N1C=CC2=C(C=CC=C12)OC(N(C1=CC=CC=C1)C)=O | C16H14N2O2
